US08283442B2
A mixture of [1-(4-chloro-7-methoxy-quinolin-2-yl)-1H-pyrazol-3-yl]-isopropyl-amine (0.52 g, 1.6 mmol) and sodium acetate monohydrate (1.0 g) in acetic acid (5 mL) was stirred at 130° C. for 2 d. The mixture was concentrated and then partitioned between ethyl acetate (50 mL) and water (50 mL). The organic layer was concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes), affording [1-(4-hydroxy-7-methoxy-quinolin-2-yl)-1H-pyrazol-3-yl]-isopropyl-amine (0.09 g, 19%). LC/MS=299.1 (M++1).

reactant | [1-(4-chloro-7-methoxy-quinolin-2-yl)-1H-pyrazol-3-yl]-isopropyl-amine | 1.6 mmol, 0.52 g | ClC1=CC(=NC2=CC(=CC=C12)OC)N1N=C(C=C1)NC(C)C | C16H17ClN4O
reactant | sodium acetate monohydrate | 1.0 g | O.C(C)(=O)[O-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | [1-(4-hydroxy-7-methoxy-quinolin-2-yl)-1H-pyrazol-3-yl]-isopropyl-amine | 0.09 g, 19% | OC1=CC(=NC2=CC(=CC=C12)OC)N1N=C(C=C1)NC(C)C | C16H18N4O2
